US08957064B2
4-(3-chloro-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde
The compound was synthesized in a manner according to 4-(3-bromo-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde by using NCS instead of NBS.

reactant | 4-(3-bromo-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | BrC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C19H12BrN3O
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
product | 4-(3-chloro-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | ClC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C19H12ClN3O
